*$
*//-----------------------------------------------------------------------//
*//   Part No.    : HHXC350ARA151MHA0G
*//   Date        : 2018/02/13
*//   Update 	  : 2018/11/08 Corrected the SUBCKT
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT HHXC350ARA151MHA0G_20deg-C 1 2

C1 4 2 8.97e-05
C2 5 2 2.17e-05
C3 6 2 1.37e-05
R1 3 4 1.40e-02
R2 4 5 7.28e-02
R3 5 6 7.42e-01
L1 1 3 3.70e-09

.ENDS
*$
